US05342848
A stirred solution of 2.5M n-butyllithium in hexane (30.8ml, 0.77mol) at -78° C. was mixed with diethyl ether (310ml) and a solution of 4-bromopyridine (60.9g, 0.39mol) in diethyl ether (1200 ml) was added dropwise over 3 hours. Stirring was continued for 2 hours and a solution of 2-methoxycyclohexanone (54.3g, 0.42mol) in diethyl ether (total volume 100ml) was added dropwise over 1 hour. The stirred solution was allowed to warm to room temperature and stirring was continued overnight. Water (250ml) was then added to the reaction mixture, keeping the temperature below 20° C. and the mixture stirred for a further 30 minutes. The organic layer was separated and the aqueous layer was extracted with diethyl ether (3×50ml). The combined organic layers were extracted with hydrochloric acid (2N, 2×250ml+100ml) and the combined acidic extracts brought to pH 11 with 5N aqueous sodium hydroxide and extracted with ethyl acetate (3×250ml). The combined ethyl acetate extracts were dried (MgSO4) and evaporated in vacuo. The residue was recrystallized from petroleum ether (60°-80° C.) to give (±)-2-methoxy-l-(pyrid-4-yl)cyclohexanol (32.0g, 0.15mol) as a mixture of cis and trans isomers, m.p. 98°-101° C.

reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | hexane | 0.77mol, 30.8ml | CCCCCC | C6H14
reactant | 4-bromopyridine | 0.39mol, 60.9g | BrC1=CC=NC=C1 | C5H4BrN
reactant | 2-methoxycyclohexanone | 0.42mol, 54.3g | COC1C(CCCC1)=O | C7H12O2
solvent | diethyl ether | 1200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 310ml | C(C)OCC | C4H10O
solvent | Water | 250ml | O | H2O
product | (±)-2-methoxy-l-(pyrid-4-yl)cyclohexanol | 0.15mol, 32.0g | COC1C(CCCC1)(O)C1=CC=NC=C1 | C12H17NO2
